US07781436B2
4-(5-Bromo-2,3-dihydro-benzofuran-7-yl)-pyridine
4-Bromopyridine or hydrochloride salt thereof was dissolved in DME under argon and Pd(Ph3P)4 (3 mol %) was added. The mixture was stirred for 10 min at 50° C. To this solution was added (commercially available) 5-bromo-2,3-dihydrobenzo[b]furan-7-boronic acid dissolved in a minimum amount of EtOH/DME 1:2 followed by 2N Na2CO3. The reaction mixture was refluxed (110° C.) under stirring for 2 h. The flask was cooled to RT, the mixture was treated with sat. aq. NH4Cl solution and extracted with CHCl3. Evaporation and purification by SiO2 gel chromatography (hexane/ethyl acetate: 4/1) gave the title compound in 76% yield.

reactant | 4-Bromopyridine | BrC1=CC=NC=C1 | C5H4BrN
reactant | 5-bromo-2,3-dihydrobenzo[b]furan-7-boronic acid | BrC1=CC2=C(OCC2)C(=C1)B(O)O | C8H8BBrO3
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DME | COCCOC | C4H10O2
solvent | EtOH DME | CCO.COCCOC
catalyst | Pd(Ph3P)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(5-Bromo-2,3-dihydro-benzofuran-7-yl)-pyridine | 76% yield | BrC=1C=C(C2=C(CCO2)C1)C1=CC=NC=C1 | C13H10BrNO
